US06943183B2
Synthesis of N-[2-((S)-2-Imidazol-1-yl-1-phenyl-ethoxy)-5-oxo-5,6,7,8-tetrahydro-naphthalen-1-ylmethyl]-4-methoxy-benzenesulfonamide (Compound 42a)
To a solution of 5-aminomethyl-6-((S)-2-imidazol-1-yl-1-phenyl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one bis-hydrochloride (40 mg, 0.092 mmole) in CH2Cl2 (1 mL) and pyridine (1 mL) was added 4-methoxybenzenesulfonyl chloride (0.75 mL, 0.4 M solution in trifluorotoluene, 3 equiv). The reaction was shaken overnight. A polyamine resin was added to quench the excess sulfonyl chloride. The mixture was filtered and concentrated. The residue was dissolved in EtOAc and washed with 1 M NaOH and brine, dried over Na2SO4 and concentrated to give a light brown oil. Purification by chromatography (5% MeOH/CH2Cl2 with 1% NH4OH) gave the title compound as an off-white foam (32 mg, 0.060 mmol, 66%). The structure was confirmed by NMR and mass spectrometry. MS m/z 532 (M++H).

reactant | 5-aminomethyl-6-((S)-2-imidazol-1-yl-1-phenyl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one bis-hydrochloride | 0.092 mmole, 40 mg | Cl.Cl.NCC1=C2CCCC(C2=CC=C1O[C@H](CN1C=NC=C1)C1=CC=CC=C1)=O
reactant | 4-methoxybenzenesulfonyl chloride | 0.4 M, 0.75 mL, 3 equiv | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | N-[2-((S)-2-Imidazol-1-yl-1-phenyl-ethoxy)-5-oxo-5,6,7,8-tetrahydro-naphthalen-1-ylmethyl]-4-methoxy-benzenesulfonamide | 0.060 mmol, 32 mg, 66% | N1(C=NC=C1)C[C@@H](OC1=C(C=2CCCC(C2C=C1)=O)CNS(=O)(=O)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C29H29N3O5S
